US09227985B2
Step 2. 7-(1,4-dimethyl-1H-pyrazol-5-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
7-Bromo-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (28 mg, 0.084 mmol) was dissolved in 1,4-dioxane (0.67 mL). 1,4-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (28 mg, 0.13 mmol) and potassium phosphate (40 mg, 0.2 mmol) in water (0.17 mL) was added. The reaction mixture was deoxygenated with nitrogen. Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (2 mg, 0.002 mmol) was added and the mixture was again deoxygenated with nitrogen. The reaction mixture was then stirred at 90° C. under nitrogen for 2 h. Product was purified using preparative LCMS (pH 10) to give the title compound. LCMS calc. for C19H17N5O2 (M+H)+: m/z=348.1. found: 348.0.

reactant | 7-Bromo-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.084 mmol, 28 mg | BrC1=CC=C2C=3N(C(COC31)C3=NC=CC=C3)C(N2)=O | C14H10BrN3O2
reactant | 1,4-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.13 mmol, 28 mg | CN1N=CC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H19BN2O2
reactant | potassium phosphate | 0.2 mmol, 40 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 0.67 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.17 mL | O | H2O
catalyst | Dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.002 mmol, 2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
product | 7-(1,4-dimethyl-1H-pyrazol-5-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | CN1N=CC(=C1C1=CC=C2C=3N(C(COC31)C3=NC=CC=C3)C(N2)=O)C | C19H17N5O2
